US07348318B2
Synthesis of (3S)-3-amino-1-bis(phenylamino)phosphinyl-2-piperidone
Palladium black (20 mg) was added to a solution of (3S)-3-benzyloxycarbonylamino-1-bis(phenylamino)phosphinyl-2-piperidone (200.2 mg, 0.4184 mmol) in methanol (4 mL), and the resulting mixture was stirred overnight at room temperature under a hydrogen atmosphere.

reactant | (3S)-3-benzyloxycarbonylamino-1-bis(phenylamino)phosphinyl-2-piperidone | 0.4184 mmol, 200.2 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CCC1)P(=O)(NC1=CC=CC=C1)NC1=CC=CC=C1)=O | C25H27N4O4P
solvent | methanol | 4 mL | CO | CH4O
catalyst | Palladium black | 20 mg | [Pd] | Pd
product | (3S)-3-amino-1-bis(phenylamino)phosphinyl-2-piperidone | N[C@@H]1C(N(CCC1)P(=O)(NC1=CC=CC=C1)NC1=CC=CC=C1)=O | C17H21N4O2P
